US03954754
EXAMPLE 46: 6-Benzoyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
A solution of 4.0 g of 3-benzylmercapto-6-benzoyl-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine and 1.5 g of hydrazine hydrate in 10 cc of 95% ethanol is heated in an autoclave at a bath temperature of 150° for 16 hours. The oil obtained after concentrating the reaction mixture in a vacuum, is divided between chloroform and a small amount of water, and the organic phase is concentrated to a red oil. The title compound is obtained by crystallization from dimethyl formamide. M.P. 220°-223° (decomp.).

reactant | 3-benzylmercapto-6-benzoyl-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 4.0 g | C(C1=CC=CC=C1)SC1=CC2=C(N=N1)CCN(C2)C(C2=CC=CC=C2)=O | C21H19N3OS
reactant | hydrazine hydrate | 1.5 g | O.NN
solvent | ethanol | 10 cc | C(C)O | C2H6O
product | 6-Benzoyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)NN)CC1 | C14H15N5O
